US06294552B1
1D. 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one
6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one (63 g, 130 mMol) was dissolved in THF (500 mL) under an atmosphere of dry N2. To this solution, was added a 10 N aqueous NaOH (550 mL), benzyltriethylammonium chloride (13.8 g, 60.5 mMol) and methyl iodide (13.5 mL, 212.0 mMol). The reaction mixture was stirred at ambient temperature for 15 hours after which time it was partitioned between DCM and water. The DCM layer was successively washed with water (4 times) and then brine. The organic layer was dried over MgSO4, filtered and concentrated under vacuum to give 51.2 g of a yellow solid as the titled compound which was used without further purification.

reactant | 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one | 130 mMol, 63 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(NC3=CC2)=O)C2=CC(=CC=C2)I)C=C1 | C22H13ClINO2
reactant | NaOH | 10 N, 550 mL | [OH-].[Na+]
reactant | methyl iodide | 212.0 mMol, 13.5 mL | CI | CH3I
solvent | THF | 500 mL | C1CCOC1 | C4H8O
catalyst | benzyltriethylammonium chloride | 60.5 mMol, 13.8 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one | 51.2 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)I)C=C1 | C23H15ClINO2
